US05849911
2d) 1-[4-(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane
742 mg (1.16 mmol) of 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane and 12 ml of formic acid are stirred at room temperature for 7 hours and then concentrated by evaporation. Sat. NaHCO3 solution and ethyl acetate are added to the residue; the aqueous phase is separated off and extracted with ethyl acetate. The organic phases are treated with water and brine, dried (Na2SO4) and concentrated by evaporation, yielding the title compound which is used further directly.

reactant | 1-[4-(thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-(tert-butoxycarbonyl)amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane | 1.16 mmol, 742 mg | S1C=NC=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)NC(=O)OC(C)(C)C | C33H45N5O6S
solvent | formic acid | 12 ml | C(=O)O | CH2O2
product | 1-[4-(Thiazol-5-yl)-phenyl]-4(S)-hydroxy-2-amino-5(S)-N-(N-methoxycarbonyl-(L)-tert-leucyl)amino-6-phenyl-2-azahexane | S1C=NC=C1C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)OC)C(C)(C)C)=O)O)N | C28H37N5O4S
